US04593029
1.0 g of 7-(6-(N-imidazolyl)hexyl)oxy-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one HCl suspended in 50 ml of ether is stirred with a twofold stoichiometric excess of dilute aqueous potassium carbonate solution until the salt is completely dissolved. The organic layer is then separated, washed twice with water, dried over magnesium sulfate and evaporated to yield 7-(6-(N-imidazolyl)hexyl)oxy-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one as the free base.

reactant | 7-(6-(N-imidazolyl)hexyl)oxy-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one HCl | 1.0 g | Cl.N1(C=NC=C1)CCCCCCOC=1C=C2CN3C(=NC2=CC1)NC(C3)=O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 50 ml | CCOCC | C4H10O
product | 7-(6-(N-imidazolyl)hexyl)oxy-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one | N1(C=NC=C1)CCCCCCOC=1C=C2CN3C(=NC2=CC1)NC(C3)=O | C19H23N5O2
